US09253997B2
Synthesis of (2S)-3-{[(3-chloro-4-methyl-5-sulfophenyl)carbamoyl]amino}-2-(methylamino)propanoic acid
100 mg of Boc-DAP-OtBu hydrochloride and 60 mg of CDI were dissolved in 1 ml of acetonitrile and stirred for 5 minutes. 75 mg of 5-amino-3-chloro-2-methylbenzenesulfonic acid was added and stirred overnight. Extraction was performed with ethyl acetate to obtain a crude product. The obtained crude product was added with 1.5 ml of dioxane and 0.5 ml of dioxane solution containing 4N hydrochloric acid and stirred for 2 hours. The solvent was distilled away to obtain a crude product. To the obtained crude product, 2 ml of methylene chloride was added, and 52 mg of 2-nitrobenzenesulfonyl chloride and 0.14 ml of triethylamine were added. After 2 hours of agitation, extraction was performed with ethyl acetate to obtain a crude product. The obtained crude product was added with 50 mg of potassium carbonate, 2 ml of DMF and 0.1 ml of methyl iodide and stirred at room temperature overnight. Following extraction with ethyl acetate, the solvent was distilled away to obtain a crude product. The obtained crude product was added with 3 ml of trifluoroacetic acid and stirred at room temperature for 5 hours. The solvent was distilled away and the residue was lyophilized. The resulting lyophilized product was added with 1 ml of DMF, further added with 54 μl of 1-dodecanethiol and 80 μl of a 28% sodium ethoxide ethanol solution, and stirred at room temperature. Following dilution with water and acetonitrile, purification was performed using purification step A to obtain the title compound.

reactant | CDI | 60 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 5-amino-3-chloro-2-methylbenzenesulfonic acid | 75 mg | NC=1C=C(C(=C(C1)S(=O)(=O)O)C)Cl | C7H8ClNO3S
reactant | hydrochloric acid | 4N | Cl | ClH
reactant | 2-nitrobenzenesulfonyl chloride | 52 mg | [N+](=O)([O-])C1=C(C=CC=C1)S(=O)(=O)Cl | C6H4ClNO4S
reactant | potassium carbonate | 50 mg | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.1 ml | CI | CH3I
reactant | trifluoroacetic acid | 3 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | acetonitrile | 1 ml | C(C)#N | C2H3N
solvent | DMF | 2 ml | CN(C)C=O | C3H7NO
solvent | triethylamine | 0.14 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 2 ml | C(Cl)Cl | CH2Cl2
solvent | dioxane | 0.5 ml | O1CCOCC1 | C4H8O2
solvent | dioxane | 1.5 ml | O1CCOCC1 | C4H8O2
product | (2S)-3-{[(3-chloro-4-methyl-5-sulfophenyl)carbamoyl]amino}-2-(methylamino)propanoic acid | ClC=1C=C(C=C(C1C)S(=O)(=O)O)NC(=O)NC[C@@H](C(=O)O)NC | C12H16ClN3O6S
